US04186129
50 mmol of 3-benzyloxy-4-methoxybenzaldehyde and 55 mmol of trimethylsilyl cyanide are heated together with 0.567 mmol of anhydrous zinc iodide for 4 hours under nitrogen and exclusion of moisture to 90°. The mixture is then taken up in 15 ml. of absolute tetrahydrofuran, and this solution is added dropwise to a suspension of 60 mmol of lithium aluminum hydride in 35 ml. of tetrahydrofuran. After heating the mixture for one hour to 60°, it is worked up as described in Example 1. Recrystallization from ethyl acetate produces 2-amino-1-(3-benzyloxy-4-methoxyphenyl)-ethanol, m.p. 100°-102°, in a 30% yield.

reactant | 3-benzyloxy-4-methoxybenzaldehyde | 50 mmol | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | trimethylsilyl cyanide | 55 mmol | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | 60 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
catalyst | zinc iodide | 0.567 mmol | [I-].[Zn+2].[I-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-amino-1-(3-benzyloxy-4-methoxyphenyl)-ethanol | 30% yield | NCC(O)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C16H19NO3
